US07893056B2
To a solution of (2S,5S)-2,5-dimethyl-1-(phenylmethyl)piperazine (J. Med. Chem. 2006, 49, 716-726) (770 mg, 3.77 mmol) in dichloromethane (25 mL) at 0° C. was added formaldehyde (0.396 mL, 37% water solution, 5.28 mmol) followed by sodium triacetoxyborohydride (959 mg, 4.52 mmol). The reaction mixture was allowed to warm to room temperature and stirred for 2 h before being diluted with dichloromethane and washed with 1N NaOH solution. The organics were washed with brine, dried (MgSO4) and evaporated to yield (2S,5S)-1,2,5-trimethyl-4-(phenylmethyl)piperazine (782 mg, 95%). LCMS: (M+H)+: 219.1.

reactant | (2S,5S)-2,5-dimethyl-1-(phenylmethyl)piperazine | 3.77 mmol, 770 mg | C[C@@H]1N(C[C@@H](NC1)C)CC1=CC=CC=C1 | C13H20N2
reactant | formaldehyde | 5.28 mmol, 0.396 mL | C=O | CH2O
reactant | sodium triacetoxyborohydride | 4.52 mmol, 959 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | (2S,5S)-1,2,5-trimethyl-4-(phenylmethyl)piperazine | 782 mg, 95% | CN1[C@H](CN([C@H](C1)C)CC1=CC=CC=C1)C | C14H22N2
